US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (50 mg) and 2-aminonicotinic acid to produce 2-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)pyridine-3-carboxamide. MS (Q1) 325.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
product | 2-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)pyridine-3-carboxamide | NC1=NC=CC=C1C(=O)NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1 | C17H13ClN4O
